US07470705B2
(+/−)-cis-4-[[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Add trifluoroacetic acid (1 mL) to a solution of (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-[2-(2-tert-butoxycarbonylamino-ethyl)-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (61 mg, 0.079 mmol) in dichloromethane (3 mL) and stir the mixture at room temperature for 3 h. Pour the reaction mixture onto a saturated solution of sodium bicarbonate and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue by silica gel chromatography, eluting with ethyl acetate, to afford the title compound (24 mg, 45%). MS (ES+): 669 (M+H).

reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (+/−)-cis-4-[(3,5-bis-trifluoromethyl-benzyl)-[2-(2-tert-butoxycarbonylamino-ethyl)-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.079 mmol, 61 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)CCNC(=O)OC(C)(C)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C32H37F9N8O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-[[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 24 mg, 45% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1N=NN(N1)CCN)CC | C27H29F9N8O2
